US07935725B2
Step B: [4-(Benzothiazol-2-yloxy)-2-fluoro-phenyl]-methanol.
To a solution of 4-(benzothiazol-2-yloxy)-2-fluoro-benzoic acid (4.7 g, 16.1 mmol) in THF (100 mL) was added Et3N (2.5 mL, 17.7 mmol). The mixture was cooled to 0° C., and isobutylchloroformate (2.1 mL, 16.1 mmol) was added. The reaction mixture was stirred for 2 h, filtered, and concentrated. The residue was dissolved in THF (50 mL) and cooled to 0° C. Sodium borohydride (1.2 g, 32.2 mmol) was added and immediately followed by water (10 mL). The reaction mixture was then partitioned between EtOAc (50 mL) and brine (20 mL). The organic layer was separated, dried (Mg2SO4), filtered and concentrated. Purification by silica gel flash chromatography (0% to 60% EtOAc in hexanes) afforded the title compound as a colorless solid (3.3 g, 75%). MS (ESI): mass calcd. for C14H10FNO2S, 275.0; m/z found, 276.0 [M+H]+. 1H NMR (500 MHz, CDCl3): 7.77 (d, J=8.1 Hz, 1H), 7.72 (dd, J=5.3, 2.7 Hz, 1H), 7.54 (t, J=8.4 Hz, 1H), 7.43 (td, J=7.6, 1.3 Hz, 1H), 7.32 (td, J=7.5, 1.2 Hz, 1H), 7.24-7.16 (m, 2H), 4.81 (d, J=5.8 Hz, 2H), 1.79 (t, J=6.1 Hz, 1H).

reactant | 4-(benzothiazol-2-yloxy)-2-fluoro-benzoic acid | 16.1 mmol, 4.7 g | S1C(=NC2=C1C=CC=C2)OC2=CC(=C(C(=O)O)C=C2)F | C14H8FNO3S
reactant | Et3N | 17.7 mmol, 2.5 mL | CCN(CC)CC | C6H15N
reactant | isobutylchloroformate | 16.1 mmol, 2.1 mL | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | Sodium borohydride | 32.2 mmol, 1.2 g | [BH4-].[Na+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | water | 10 mL | O | H2O
product | [4-(Benzothiazol-2-yloxy)-2-fluoro-phenyl]-methanol | 3.3 g, 75% | S1C(=NC2=C1C=CC=C2)OC2=CC(=C(C=C2)CO)F | C14H10FNO2S
